US08536215B2
To a stirred solution of a cyclohexenyl-ethanone (0.06 mmol), in acetic acid (500 μl) was added methoxyamine (4.7 mg). The reaction mixture was stirred at 24° C. for 48 h under nitrogen to obtain the cyclohexenyl-ethanone O-methyl-oxime.

reactant | cyclohexenyl-ethanone | 0.06 mmol | C1(=CCCCC1)C(C)=O | C8H12O
reactant | methoxyamine | 4.7 mg | CON | CH5NO
solvent | acetic acid | 500 μl | C(C)(=O)O | C2H4O2
product | cyclohexenyl-ethanone O-methyl-oxime | CON=C(C)C1=CCCCC1 | C9H15NO
